US04971982
10.25 g of 3-iodopyridine were added at to a solution of 44 mg of palladium(II) chloride, room temperature 131 mg of triphenylphosphine and 95 mg of copper(I) iodide in 200 mg of diethylamine 9.25 g of 4-(1,1-dimethyl-2-propynyloxy)benzonitrile were then added and the mixture was stirred for 3 days. The mixture was evaporated and the residue was partitioned between ethyl acetate and water. The organic phase was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (11:9) for the elution to give 11.8 g of 4-[1,1-dimethyl-3-(3-pyridyl)-2-propynyloxy]benzonitrile in the form of an oil.

reactant | 3-iodopyridine | 10.25 g | IC=1C=NC=CC1 | C5H4IN
reactant | triphenylphosphine | 131 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(1,1-dimethyl-2-propynyloxy)benzonitrile | CC(C#C)(OC1=CC=C(C#N)C=C1)C | C12H11NO
solvent | diethylamine | 200 mg | C(C)NCC | C4H11N
catalyst | palladium(II) chloride | 44 mg | [Pd](Cl)Cl
catalyst | copper(I) iodide | 95 mg | [Cu]I
product | 4-[1,1-dimethyl-3-(3-pyridyl)-2-propynyloxy]benzonitrile | 11.8 g | CC(C#CC=1C=NC=CC1)(OC1=CC=C(C#N)C=C1)C | C17H14N2O
